* source I-FFD
V_VDD         N28045 0 3.3
M_M3         OUT N28105 N28045 N28045 CMOSP  
+ L=.2u  
+ W=.4         
M_M4         OUT N28077 N28045 N28045 CMOSP  
+ L=.2u  
+ W=.4         
V_IN2         N28105 0  
+PULSE 0 3 5u 1.5u 1.5u 3u 10u
V_IN1         N28077 0  
+PULSE 0 3 15u 1.5u 1.5u 3u 20u
M_M1         OUT N28105 N28065 N28065 CMOSN  
+ L=.2u  
+ W=.2         
M_M2         N28065 N28077 0 0 CMOSN  
+ L=.2u  
+ W=.2         
